US04065584
a. 3-(Phenylthio)-butyric acid
0.25 g of sodium in small pieces, in 50 ml (0.5 mol) of thiophenol, is heated to 90°-95° C whilst stirring, and 52.5 ml (0.55 mol) of methyl crotonate are added dropwise. The mixture is heated further for 1 hour at 120° C and 85 g (boiling point/5 mm Hg = 137°-138° C) of the resulting ester are distilled in vacuo. 53 g (0.25 mol) of this ester in solution in 200 ml of methanol are hydrolysed with 16 g (0.4 mol) of NaOH in 200 ml of water. The mixture is heated for 2 hours under reflux, the alcohol is evaporated in vacuo, the residue is taken up in water and the product is precipitated with concentrated HCl and extracted with ether. The extract is washed with water and dried, and 32 g (65%) of a white oil are obtained.

reactant | thiophenol | 0.5 mol, 50 ml | C1(=CC=CC=C1)S | C6H6S
reactant | methyl crotonate | 0.55 mol, 52.5 ml | C(\C=C\C)(=O)OC | C5H8O2
reactant | NaOH | 0.4 mol, 16 g | [OH-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
solvent | water | 200 ml | O | H2O
catalyst | sodium | 0.25 g | [Na] | Na
product | 3-(Phenylthio)-butyric acid | 32 g, 65% | C1(=CC=CC=C1)SC(CC(=O)O)C | C10H12O2S
